US07696240B2
Using general procedure A (Exp. 1.3.), 7-fluoro-1-methyl-naphthalene was reacted with N-bromosuccinimide to give 1-bromomethyl-7-fluoro-naphthalene as white solid. MS: 238.1 ([M]+).

reactant | 7-fluoro-1-methyl-naphthalene | FC1=CC=C2C=CC=C(C2=C1)C | C11H9F
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 1-bromomethyl-7-fluoro-naphthalene | BrCC1=CC=CC2=CC=C(C=C12)F | C11H8BrF
